* /home/mallikarjuna/Downloads/eSim-1.1.2/src/SubcircuitLibrary/74153/74153.cir

* EESchema Netlist Version 1.1 (Spice format) creation date: Wed Jun 26 15:19:41 2019

* To exclude a component from the Spice Netlist add [Spice_Netlist_Enabled] user FIELD set to: N
* To reorder the component spice node sequence add [Spice_Node_Sequence] user FIELD and define sequence: 2,1,0

* Sheet Name: /
U2  Net-_U1-Pad14_ Net-_U2-Pad2_ d_inverter		
U3  Net-_U1-Pad2_ Net-_U3-Pad2_ d_inverter		
U1  Net-_U1-Pad1_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U1-Pad4_ Net-_U1-Pad5_ Net-_U1-Pad6_ Net-_U1-Pad7_ ? Net-_U1-Pad9_ Net-_U1-Pad10_ Net-_U1-Pad11_ Net-_U1-Pad12_ Net-_U1-Pad13_ Net-_U1-Pad14_ Net-_U1-Pad15_ ? PORT		
U35  Net-_U1-Pad1_ Net-_U35-Pad2_ d_inverter		
U34  Net-_U1-Pad15_ Net-_U34-Pad2_ d_inverter		
X8  Net-_U2-Pad2_ Net-_U3-Pad2_ Net-_U1-Pad6_ Net-_U35-Pad2_ Net-_X2-Pad1_ 4_and		
X9  Net-_U1-Pad14_ Net-_U3-Pad2_ Net-_U1-Pad5_ Net-_U35-Pad2_ Net-_X2-Pad2_ 4_and		
X4  Net-_U2-Pad2_ Net-_U1-Pad2_ Net-_U1-Pad4_ Net-_U35-Pad2_ Net-_X2-Pad3_ 4_and		
X10  Net-_U1-Pad14_ Net-_U1-Pad2_ Net-_U1-Pad3_ Net-_U35-Pad2_ Net-_X10-Pad5_ 4_and		
X5  Net-_U2-Pad2_ Net-_U3-Pad2_ Net-_U1-Pad10_ Net-_U34-Pad2_ Net-_X1-Pad1_ 4_and		
X6  Net-_U1-Pad14_ Net-_U3-Pad2_ Net-_U1-Pad11_ Net-_U34-Pad2_ Net-_X1-Pad2_ 4_and		
X3  Net-_U2-Pad2_ Net-_U1-Pad2_ Net-_U1-Pad12_ Net-_U34-Pad2_ Net-_X1-Pad3_ 4_and		
X7  Net-_U1-Pad14_ Net-_U1-Pad2_ Net-_U1-Pad13_ Net-_U34-Pad2_ Net-_X1-Pad4_ 4_and		
X1  Net-_X1-Pad1_ Net-_X1-Pad2_ Net-_X1-Pad3_ Net-_X1-Pad4_ Net-_U1-Pad9_ 4_OR		
X2  Net-_X2-Pad1_ Net-_X2-Pad2_ Net-_X2-Pad3_ Net-_X10-Pad5_ Net-_U1-Pad7_ 4_OR		

.end
